US06320050B1
A solution of triphenylphosphine (98 mg, 0.37 mmol) in methylene chloride (1 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (67 mg, 0.37 mmol). The reaction mixture was stirred at 0° C. for 15 min and then treated with 2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (100 mg, 0.31 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-aminopyridine (64 mg, 0.68 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) to afford 2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-pyridin-2-yl-propionamide (94.5 mg, 76%) as a yellow foam: mp 87-90° C. (foam to gel); EI-HRMS m/e calcd for C21H23N3O3S (M+) 397.1460, found 397.1460.

reactant | triphenylphosphine | 0.37 mmol, 98 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.37 mmol, 67 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 0.31 mmol, 100 mg | C(#N)C=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C16H19NO4S
reactant | 2-aminopyridine | 0.68 mmol, 64 mg | NC1=NC=CC=C1 | C5H6N2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-pyridin-2-yl-propionamide | 94.5 mg, 76% | C(#N)C=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=CC=C1)CC1CCCC1 | C21H23N3O3S
